* testskeem opvoimendi valjundpinge ulatuse maaramiseks

VCC vp 0 DC 9
VEE vn 0 DC -9
VREF inp 0 DC 0
VIN in 0 DC 0

RIN in inn 100k
RFB out inn 100k
RL out 0 100k

XU1 inp inn vp vn out OP07
.include op07.txt

.dc VIN -10 10 1m

.control
run
meas dc uo_min MIN v(out)
meas dc uo_max MAX v(out)
print uo_min uo_max

.endc
.end